US07253174B2
(d) Synthesis of 3-[5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-4-ylamino]-N-methoxy-4-methyl-benzamide
3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methanesulfinyl-pyrimidin-4-ylamino}-N-methoxy-4-methyl-benzamide (40 mg) and 1-methyl-homopiperazine (0.05 mL) in THF (0.5 mL) were heated in sealed tube at 75° C. for overnight. After the solvent was removed in vacuo, the residue was purified by silica gel column chromatography to afford the product (6.8 mg). MS (m/z): 495 (M+H).

reactant | 3-{5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-methanesulfinyl-pyrimidin-4-ylamino}-N-methoxy-4-methyl-benzamide | 40 mg | C(#N)C=1C(=NC(=NC1N(C)CC(C)(C)C)S(=O)C)NC=1C=C(C(=O)NOC)C=CC1C | C21H28N6O3S
reactant | 1-methyl-homopiperazine | 0.05 mL | CN1CCNCCC1 | C6H14N2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-[5-Cyano-6-[(2,2-dimethyl-propyl)-methyl-amino]-2-(4-methyl-[1,4]diazepan-1-yl)-pyrimidin-4-ylamino]-N-methoxy-4-methyl-benzamide | 6.8 mg | C(#N)C=1C(=NC(=NC1N(C)CC(C)(C)C)N1CCN(CCC1)C)NC=1C=C(C(=O)NOC)C=CC1C | C26H38N8O2
